US06982348B2
To a solution of 2-methyl-5-(trifluoromethyl)furan (4 g, 26.6 mmol) in chloroform (60 ml) were added N-bromosuccinimide (5.2 g, 29.3 mmol) and 2,2′-azobis(isobutyronitrile) (220 mg, 1.33 mmol). The reaction solution was heated under reflux for 15 min. The reaction solution was cooled, poured into water (200 ml) and was extracted with chloroform. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give 2-(bromomethyl)-5-(trifluoromethyl)furan (4.79 g, 78%).

reactant | 2-methyl-5-(trifluoromethyl)furan | 26.6 mmol, 4 g | CC=1OC(=CC1)C(F)(F)F | C6H5F3O
reactant | N-bromosuccinimide | 29.3 mmol, 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 200 ml | O | H2O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 2,2′-azobis(isobutyronitrile) | 1.33 mmol, 220 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-(bromomethyl)-5-(trifluoromethyl)furan | 4.79 g, 78% | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
